US07238808B2
5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-3-methyl-pyridin-2-ylamine
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (340 mg, 1.0 mmol) and 2-amino-5-bromo-3-methylpyridine (168 mg, 1.0 mmol) according to general procedure II. Obtained as a red solid (210 mg, 46%). MS (ISP) 444.3 [(M+H)+]; mp 194–195° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 340 mg | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 2-amino-5-bromo-3-methylpyridine | 1.0 mmol, 168 mg | NC1=NC=C(C=C1C)Br | C6H7BrN2
product | 5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-3-methyl-pyridin-2-ylamine | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=C(C(=NC2)N)C)C2=CC=C(C=C2)C(F)(F)F)F | C22H14F5N5
